M5 (VOUT4 VOUT3 net13 net51) nmos4
M4 (VOUT3 VOUT4 net13 net53) nmos4
? Missing component
M0 (VOUT1 VOUT2 net13 net54) nmos4
C8 (net51 VOUT1) capacitor
C5 (net53 VOUT2) capacitor
C4 (net52 VOUT4) capacitor
C3 (net54 VOUT3) capacitor
C2 (net50 net13) capacitor
C6 (VCONT2 VOUT3) capacitor
C0 (VCONT1 VOUT1) capacitor
C7 (VCONT2 VOUT4) capacitor
C1 (VCONT1 VOUT2) capacitor
M11 (VOUT4 VOUT3 net50 VDD) pmos4
M10 (VOUT3 VOUT4 net50 VDD) pmos4
M9 (VOUT2 VOUT1 net50 VDD) pmos4
M8 (VOUT1 VOUT2 net50 VDD) pmos4
R5 (net51 VSS) resistor
R4 (net53 VSS) resistor
R3 (net54 VSS) resistor
R2 (net52 VSS) resistor
R1 (net13 VSS) resistor
R0 (VDD net50) resistor
L1 (VOUT3 VOUT4) inductor
L0 (VOUT1 VOUT2) inductor
